US04634548
105 g of a hydrocarbon mixture containing (according to GC) 56% of 1-isopropyl-4,4,7-trimethyl-1,2,3,4,5,8-hexahydronaphthalene (IIo) are dissolved in 400 ml of dichloroethane and treated in accordance with Example 1, method C, with 1.1 g of molybdenum hexacarbonyl, 0.4 g of disodium hydrogen phosphate and 228 ml of a 2.8 molar tert.butyl hydroperoxide solution. After working-up, 115 g of crude product are obtained. By chromatography there is obtained pure 6,7-epoxy-1-isopropyl-4,4,7-trimethyl1,2,3,4,5,6,7,8-octahydronaphthalene.

reactant | 1-isopropyl-4,4,7-trimethyl-1,2,3,4,5,8-hexahydronaphthalene | C(C)(C)C1CCC(C=2CC=C(CC12)C)(C)C | C16H26
reactant | disodium hydrogen phosphate | 0.4 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | tert.butyl hydroperoxide | 2.8 molar | C(C)(C)(C)OO | C4H10O2
solvent | dichloroethane | 400 ml | ClC(C)Cl | C2H4Cl2
catalyst | molybdenum hexacarbonyl | 1.1 g | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
product | 6,7-epoxy-1-isopropyl-4,4,7-trimethyl1,2,3,4,5,6,7,8-octahydronaphthalene | O1C2CC=3C(CCC(C3CC21C)C(C)C)(C)C | C16H26O
